US07737149B2
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-2-(1-methylpiperidin-4-yl)pyrimidine-5-carboxamide
Trimethylaluminium (2 M in toluene, 1.168 ml, 2.34 mmol) was added dropwise to a suspension of 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine (231 mg, 0.93 mmol) and methyl 2-(1-methylpiperidin-4-yl)pyrimidine-5-carboxylate (220 mg, 0.93 mmol) in anhydrous toluene (4.671 ml) at 25° C. The resulting solution was stirred at 60° C. for 2 h. The reaction mixture was poured into methanol (100 mL), acidified with 2M HCl and the crude product was purified by ion exchange chromatography, using a SCX column. The desired product was eluted from the column using 7M NH3/MeOH. The crude product was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (166 mg, 39%) as a white solid.

reactant | Trimethylaluminium | 2.34 mmol, 2 M, 1.168 ml | C[Al](C)C
reactant | 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine | 0.93 mmol, 231 mg | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)N | C13H17N3O2
reactant | methyl 2-(1-methylpiperidin-4-yl)pyrimidine-5-carboxylate | 0.93 mmol, 220 mg | CN1CCC(CC1)C1=NC=C(C=N1)C(=O)OC | C12H17N3O2
reactant | HCl | 2M | Cl | ClH
solvent | toluene | 4.671 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 100 mL | CO | CH4O
product | N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-2-(1-methylpiperidin-4-yl)pyrimidine-5-carboxamide | 166 mg, 39% | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(=O)C=1C=NC(=NC1)C1CCN(CC1)C | C24H30N6O3
